US09336916B2
Solid Potassium Molybdate (K2MoO4) may be prepared by dissolving MoO3 in a basic aqueous solution of potassium hydroxide (KOH) and crystallizing the filtered product to yield potassium molybdate pentahydrate (K2MoO4.5H2O). The anhydrous salt may be prepared by heating to a sufficient temperature to liberate the water.

reactant | Potassium Molybdate | O.[O-][Mn](=O)(=O)[O-].[K+].[K+]
reactant | Molybdenum oxide | [Mo]=O
reactant | potassium hydroxide | [OH-].[K+]
product | potassium molybdate pentahydrate | O.O.O.O.O.[O-][Mo](=O)(=O)[O-].[K+].[K+] | InChI=1S/2K.Mo.5H2O.4O/h;;;5*1H2;;;;/q2*+1;;;;;;;;;2*-1
